US07351719B2
163a) 2-(4-bromo-phenylamino)-N-(4-dimethylaminomethyl-phenyl)-acetamide
The product was prepared according to general working method I from (4-bromo-phenylamino)-acetic acid and 4-dimethylaminomethyl-phenylamine.

reactant | (4-bromo-phenylamino)-acetic acid | BrC1=CC=C(C=C1)NCC(=O)O | C8H8BrNO2
reactant | 4-dimethylaminomethyl-phenylamine | CN(C)CC1=CC=C(C=C1)N | C9H14N2
product | 2-(4-bromo-phenylamino)-N-(4-dimethylaminomethyl-phenyl)-acetamide | BrC1=CC=C(C=C1)NCC(=O)NC1=CC=C(C=C1)CN(C)C | C17H20BrN3O
